US07560558B2
Compound 4: 4-(2-Bromo-4-methylphenoxy)-6,7-dimethoxyquinoline
4-Chloro-6,7-dimethoxyquinoline (1.33 g) and 2-bromo-4-methylphenol (2.5 ml) were dissolved in o-dichlorobenzene (3 ml), and the solution was stirred at 160° C. for 5 hr. The reaction solution was cooled to room temperature, and water was then added to the reaction solution. The mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with aqueous sodium hydroxide solution and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography on silica gel using acetone-chloroform to give the title compound (1.83 g, yield 82%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 1.33 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 2-bromo-4-methylphenol | 2.5 ml | BrC1=C(C=CC(=C1)C)O | C7H7BrO
reactant | water | O | H2O
solvent | o-dichlorobenzene | 3 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-(2-Bromo-4-methylphenoxy)-6,7-dimethoxyquinoline | 1.83 g, yield 82% | BrC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)C | C18H16BrNO3
